US06545135B2
2,3,4, 6-Tetra-O-benzyl-1-O- (1-hydroxy-eth-2-yl) -mannopyranose
A mixture that consists of 54.1 g (100 mmol) of 2,3,4,6-tetra-O-benzyl-mannopyranose, 1.7 g (5 mmol) of tetrabutylammonium hydrogen sulfate and 33.7 g (600 mmol) of fine-powder potassium hydroxide in 350 ml of benzene is cooled to 0° C. At 0° C., 31.4 g (150 mmol) of 2,2-dimethyl-propionic acid-bromoethylester is added in drops over 30 minutes while being stirred vigorously. It is stirred for two hours at 0° C. 300 ml of benzene is added, solid is filtered out, and the filtrate is evaporated to the dry state in a vacuum. The residue is taken up in 500 ml of ethanol/100 ml of water. 100 ml of 50% aqueous potassium hydroxide solution is added, and it is refluxed for eight hours. It is cooled to 0° C., set at pH 8 with 10% aqueous hydrochloric acid, and then the solvent is distilled off (vacuum). The residue is taken up in 300 ml of water and 400 ml of ethyl acetate, and the pH of the aqueous phase is set at 5 while being stirred (10% aqueous hydrochloric acid). The organic phase is separated, and the aqueous phase is extracted once more with 200 ml of ethyl acetate. The combined organic phases are dried on magnesium sulfate, the solvent is distilled off in a vacuum, and the residue is chromatographed on silica gel (mobile solvent: dichloromethane/nhexane/ethanol=20:8:2). The product-containing fractions are concentrated by evaporation.

reactant | 2,3,4,6-tetra-O-benzyl-mannopyranose | 100 mmol, 54.1 g | C(C1=CC=CC=C1)O[C@@H]1C(O)O[C@@H]([C@H]([C@@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1 | C34H36O6
reactant | potassium hydroxide | [OH-].[K+]
reactant | 2,2-dimethyl-propionic acid-bromoethylester | 150 mmol, 31.4 g | BrCCOC(C(C)(C)C)=O | C7H13BrO2
catalyst | tetrabutylammonium hydrogen sulfate | 5 mmol, 1.7 g | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | benzene | 350 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 300 ml | C1=CC=CC=C1 | C6H6
product | 2,3,4, 6-Tetra-O-benzyl-1-O- (1-hydroxy-eth-2-yl) -mannopyranose | C(C1=CC=CC=C1)O[C@@H]1C(OCCO)O[C@@H]([C@H]([C@@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1 | C36H40O7
